US07291632B2
2-Chloro-4-fluoro-N-((2R,4R)-3-(2-methyl-piperidin-4-ylamino)-phenyl)-benzamide hydrochloride
Dissolve (2R,4R)-4-(3-(2-chloro-4-fluoro-benzoylamino)-phenylamino)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester (Preparation 59, 119 mg, 0.258 mmol) in toluene (5 mL). Add p-toluenesulfonyl chloride (152 mg, 0.798 mmol) and heat to 100° C. for 3 hr. Cool to room temperature and load onto an SCX column with methanol. Wash the column with methanol, flush with 2M ammonia in methanol, and concentrate in vacuo. Purify by column chromatography (0%–10% 2M NH3 in methanol/CH2Cl2) to yield an oil. Make the hydrochloride salt by sonication with one equivalent of ammonium chloride dissolved in methanol to yield 40 mg (39%) of the title compound: mass spectrum (ion spray): m/z=362.1 (M+1); 1H NMR δ (D2O/DCl, ppm) 7.78 (s, 1H), 7.49 (m, 3H), 7.21 (t, J=9.0 Hz, 18.0 Hz, 2H), 7.07 (t, J=9.0 Hz, 18.0 Hz, 1H), 3.83 (m, 1H), 3.45 (m, 1H), 3.20 (m, 1H), 2.95 (m, 1H), 2.18 (m, 2H), 1.80 (m, 1H), 1.65 (m, 1H), 1.20 (d, J=6.6 Hz, 3H); mp 182–5° C.

reactant | (2R,4R)-4-(3-(2-chloro-4-fluoro-benzoylamino)-phenylamino)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.258 mmol, 119 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](CC1)NC1=CC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C24H29ClFN3O3
reactant | p-toluenesulfonyl chloride | 0.798 mmol, 152 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | one equivalent | [Cl-].[NH4+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 2-Chloro-4-fluoro-N-((2R,4R)-3-(2-methyl-piperidin-4-ylamino)-phenyl)-benzamide hydrochloride | 40 mg, 39% | Cl.ClC1=C(C(=O)NC2=CC(=CC=C2)N[C@H]2C[C@H](NCC2)C)C=CC(=C1)F | InChI=1S/C19H21ClFN3O.ClH/c1-12-9-16(7-8-22-12)23-14-3-2-4-15(11-14)24-19(25)17-6-5-13(21)10-18(17)20;/h2-6,10-12,16,22-23H,7-9H2,1H3,(H,24,25);1H/t12-,16-;/m1./s1
